US09108938B2
2-Chloro-N-[2-(4,4-difluoro-1-piperidyl)-2-[6-(trifluoromethyl)-3-pyridyl]ethyl]benzamide
From 2-chlorobenzoic acid and 2-(6-(trifluoromethyl)-3-pyridyl)-2-(4,4-difluoro-piperidin-1-yl)-ethylamine.

reactant | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 2-(6-(trifluoromethyl)-3-pyridyl)-2-(4,4-difluoro-piperidin-1-yl)-ethylamine | FC(C1=CC=C(C=N1)C(CN)N1CCC(CC1)(F)F)(F)F | C13H16F5N3
product | 2-Chloro-N-[2-(4,4-difluoro-1-piperidyl)-2-[6-(trifluoromethyl)-3-pyridyl]ethyl]benzamide | ClC1=C(C(=O)NCC(C=2C=NC(=CC2)C(F)(F)F)N2CCC(CC2)(F)F)C=CC=C1 | C20H19ClF5N3O
